US07176216B2
7-[2,6-Dimethoxy-4-(methoxymethyl)phenyl]-2-ethyl-3-nitropyrazolo[1,5-a]pyridine
A mixture of 7-bromo-2-ethyl-3-nitropyrazolo[1,5-a]pyridine (3.0 g, 11.1 mmol), 2,6-dimethoxy-4-(methoxymethyl)phenylboric acid (5.0 g, 22.2 mmol), palladium acetate (125 mg, 0.55 mmol), triphenylphosphine (578 mg, 2.22 mmol), tripotassium phosphate hydrate (5.3 g, 22.2 mmol) and 1,2-dimethoxyethane (30 mL) was heated to reflux for 14 hours under a nitrogen atmosphere. The reaction mixture was cooled to room temperature, ethyl acetate (100 mL) and water (50 mL) were added and the organic layer was separated off. The organic extract was then washed with 10% brine (50 mL), 1N hydrochloric acid (50 mL) and 10% aqueous ammonia (50 mL) in that order. The organic extract was dried over anhydrous magnesium sulfate and the solvent was evaporated under reduced pressure. The obtained concentrated residue was purified by silica gel column chromatography to afford 3.45 g of the title compound (84% yield).

reactant | 7-bromo-2-ethyl-3-nitropyrazolo[1,5-a]pyridine | 11.1 mmol, 3.0 g | BrC1=CC=CC=2N1N=C(C2[N+](=O)[O-])CC | C9H8BrN3O2
reactant | 2,6-dimethoxy-4-(methoxymethyl)phenylboric acid | 22.2 mmol, 5.0 g | COC1=C(C(=CC(=C1)COC)OC)OB(O)O | C10H15BO6
reactant | triphenylphosphine | 2.22 mmol, 578 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | tripotassium phosphate hydrate | 22.2 mmol, 5.3 g | O.P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | palladium acetate | 0.55 mmol, 125 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 50 mL | O | H2O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | 1,2-dimethoxyethane | 30 mL | COCCOC | C4H10O2
product | 7-[2,6-Dimethoxy-4-(methoxymethyl)phenyl]-2-ethyl-3-nitropyrazolo[1,5-a]pyridine | 3.45 g, 84% yield | COC1=C(C(=CC(=C1)COC)OC)C1=CC=CC=2N1N=C(C2[N+](=O)[O-])CC | C19H21N3O5
